US07906528B2
To a solution of 5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridine-3-carbaldehyde (50 mg, 0.13 mmol, prepared by the procedure described in Example 11, Step 3) in THF (2 mL) at −78° C., iso-butylmagnesium chloride (1M solution in THF, 300 μL, 0.32 mmol) is added. The mixture is stirred at −78° C. for two hours and is subsequently allowed to warm to room temperature. A saturated aqueous NH4Cl solution (5 mL) is added, and THF is removed under reduced pressure. The product is extracted with EtOAc. The combined organic extracts are washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Chromatography of the residue affords 1-[5-(2,6-dimethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3-methyl-butan-1-ol as colorless oil. 1H NMR: (CDCl3) 8.97 (s, 1H), 7.64 (s, 1H), 7.9 (s, 1H), 7.48 (d, J=120 Hz, 2H), 7.41 (d, J=10 Hz, 2H), 7.29 (t, J=10 Hz, 1H), 7.15 (d, J=12 Hz, 2H), 5.13 (m, 1H), 3.95 (m, 1H), 2.44 (m, 4H), 1.34 (d, J=14 Hz, 6H), 1.04 (t, J=10 Hz, 6H); LCMS m/z 455.34 (2.58 min).

reactant | 5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridine-3-carbaldehyde | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2C=O)C2=CC=C(C=C2)C(C)C | C27H28N2O
reactant | iso-butylmagnesium chloride | 0.32 mmol, 1M, 300 μL | C(C(C)C)[Mg]Cl
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-[5-(2,6-dimethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3-methyl-butan-1-ol | CC1=C(C(=CC=C1)C)C=1C=C2C(=CN1)N(C=C2C(CC(C)C)O)C2=CC=C(C=C2)C(C)C | C29H34N2O
